US05910506
Synthesis of 5-(3,5-dimethylphenylsulfinyl)-4-isopropyl-1,2-dimethyl-1H-imidazole (Compound I-104)
In methylene chloride (10 ml)was dissolved 150 mg (0.55 mmol)of 5-(3,5-dimethylphenylthio)-4-isopropyl-1,2-dimethyl-1H-imidazole, followed by addition of 177 mg (0.82 mmol)of 80% metachloroperbenzoic acid under ice-cooling, and the mixture was stirred for 10 minutes. To the reaction mixture, an aqueous solution of sodium thiosulfate and then, an aqueous sodium hydrogen carbonate solution was added, and extracted with methylene chloride. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, filtered, and the filtrate was concentrated under reduced pressure. The residue purified by silica gel chromatography (ethyl acetate), and recrystallized from n-hexane to give 100 mg of Compound I-104 (yield 63%). mp 100-101° C.

reactant | 5-(3,5-dimethylphenylthio)-4-isopropyl-1,2-dimethyl-1H-imidazole | 0.55 mmol, 150 mg | CC=1C=C(C=C(C1)C)SC1=C(N=C(N1C)C)C(C)C | C16H22N2S
reactant | metachloroperbenzoic acid | 0.82 mmol, 177 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 5-(3,5-dimethylphenylsulfinyl)-4-isopropyl-1,2-dimethyl-1H-imidazole | 100 mg, yield 63% | CC=1C=C(C=C(C1)C)S(=O)C1=C(N=C(N1C)C)C(C)C | C16H22N2OS
